US05563144
The procedure is carried out as in Example 11, using 1.15 g of 3-(3-chloropropyl)-1,1-dimethyl-5-fluoro-4-oxo-1,2,3,4-tetrahydro-3,1-benzazasiline, 1.1 cm3 of triethylamine and 1.3 g of 1-phenylpiperazine in 23 cm3 of toluene (23 cc). After purification by flash chromatography on a silica column under a nitrogen stream at moderate pressure (0.5-1.5 bar) with a dichloromethane-methanol mixture (98.5-1.5 by volume) as eluent, 0.3 g of 1,1-dimethyl-5-(4-phenyl-1-piperazinyl)-3- [3-(4-phenyl-1-piperazinyl)-propyl]-4-oxo-1,2,3,4-tetrahydro-3,1-benzazasiline; melting point =166° C., and 0.3 g of an oil are obtained, which oil, when dissolved in 3 cm3 of acetone and treated with 0.24 g of oxalic acid, yield 1,1-dimethyl-5-fluoro-4-oxo-3-3-(4-phenyl-1-piperazinyl) 3-propyl]-1,2,3,4,-tetrahydro-3,1-benzazasiline in the oxalate form; melting point =99° C.

reactant | 3-(3-chloropropyl)-1,1-dimethyl-5-fluoro-4-oxo-1,2,3,4-tetrahydro-3,1-benzazasiline | 1.15 g | ClCCCN1C[Si](C2=C(C1=O)C(=CC=C2)F)(C)C | C13H17ClFNOSi
reactant | triethylamine | 1.1 cm3 | C(C)N(CC)CC | C6H15N
reactant | 1-phenylpiperazine | 1.3 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | oxalic acid | 0.24 g | C(C(=O)O)(=O)O | C2H2O4
solvent | toluene | 23 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 3 cm3 | CC(=O)C | C3H6O
solvent | oxalate | C(C(=O)[O-])(=O)[O-]
product | 1,2,3,4,-tetrahydro-3,1-benzazasiline | [SiH2]1CNCC2=C1C=CC=C2 | C8H11NSi
